data/oMe_Silver.jsonl
{"reaction_id": "NR-308_1-C=Cc1ccccc1","level": "medium","name": "Tollens Oxidation","reactants_smiles": ["O=CC=Cc1ccccc1","O","[Ag+](N)N"],"products_smiles": ["O=C(O)(C=Cc1ccccc1)","[Ag]"],"conditions": "Aqueous Ammonia","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "O([Ag](N)(N))C([OH2+])C=Cc1ccccc1","step_weight": 0,"rationale": "The carbonyl carbon of the aldehyde is electrophilic due to the polar C=O bond, allowing nucleophilic attack by the oxygen ligand of the diamminesilver complex under basic aqueous conditions."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O([Ag](N)(N))C(O([Ag](N)(N)))C=Cc1ccccc1","step_weight": 0,"rationale": "Proton transfer stabilizes the addition intermediate by deprotonating the oxonium species, favored in basic ammonia solution, yielding a more stable alkoxide coordinated to silver."},{"step": 3,"type": "cleavage","subtype": "homolytic_cleavage","intermediate_smiles": "[O]C(O([Ag](N)(N)))C=Cc1ccccc1","step_weight": 0,"rationale": "Homolytic cleavage of the Ag–O bond occurs as silver is reduced, facilitated by the high reduction potential of Ag+ and the stability of the resulting oxygen-centered radical intermediate."},{"step": 4,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "O[C](O([Ag](N)(N)))C=Cc1ccccc1","step_weight": 0,"rationale": "A 1,2-shift rearranges the radical center to the carbon, driven by the formation of a more stable carbon-centered intermediate and relief of electron deficiency at oxygen."},{"step": 5,"type": "cleavage","subtype": "homolytic_cleavage","intermediate_smiles": "O=C(O)C=Cc1ccccc1","step_weight": 0,"rationale": "Final homolytic cleavage of the C–O bond to silver releases the oxidized carboxylate product, favored by the stability of the carboxylate anion in aqueous ammonia and precipitation of metallic silver."}],"description": "In Tollens oxidation, the aldehyde undergoes nucleophilic addition by the diamminesilver(I) complex in aqueous ammonia, followed by proton transfers and oxidative steps that convert it into a carboxylate, with concurrent reduction of silver ions to metallic silver."}
{"reaction_id": "NG-008_1-c1ccc(N(=O)=O)cc1_2-c1ccc2ccccc2c1_3-C(F)(F)F","name": "Baeyer-Villiger oxidation","level": "easy","reactants_smiles": ["C(c1ccc(N(=O)=O)cc1)(=O)(c1ccc2ccccc2c1)","C(C(F)(F)F)(=O)OO"],"products_smiles": ["C(c1ccc(N(=O)=O)cc1)(=O)Oc1ccc2ccccc2c1"],"conditions": "Acid (H3O+)","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(N(=O)=O)cc1)(=[OH+])c1ccc2ccccc2c1","rationale": "Protonation of the carbonyl oxygen increases the electrophilicity of the carbonyl carbon via inductive and resonance effects, making it more susceptible to nucleophilic attack by the peracid."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccc(N(=O)=O)cc1)([OH])(OOC(=O)C(F)(F)F)c1ccc2ccccc2c1","rationale": "The peracid oxygen acts as a nucleophile, attacking the activated carbonyl carbon; acid catalysis stabilizes the tetrahedral intermediate through protonation of the carbonyl."},{"step": 3,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(c1ccc(N(=O)=O)cc1)(=[OH+])Oc1ccc2ccccc2c1","rationale": "A 1,2-shift occurs from the more migratory c1ccc2ccccc2c1 group to the adjacent oxygen, driven by stabilization of the developing carbocation and relief of positive charge on the leaving group."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(N(=O)=O)cc1)(=O)Oc1ccc2ccccc2c1","rationale": "Deprotonation restores neutrality, yielding the ester product; the acidic medium facilitates proton transfers to complete the catalytic cycle."}],"description": "Under acidic conditions, the carbonyl is activated toward nucleophilic attack by protonation, allowing the peracid to add. A 1,2-shift then occurs, driven by stabilization of the developing positive charge, yielding the ester after deprotonation."}
